US04757081
To 40 ml of pyridine were added 1.3 g (0.0035 mole) of 1-(2-chlorophenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone and 0.9 g (0.0042 mole) of phosphorus pentasulfide, followed by refluxing the resultant mixture for 3 hours. After cooling, the reaction mixture was poured into water and the resulting crystals were collected by filtration. The crystals were dissolved in 100 ml of chloroform, and washed first with 30 ml of 2N hydrochloric acid and then with 30 ml of a saturated aqueous solution of sodium hydrogencarbonate. After washing the chloroform solution further with water, it was dried over anhydrous sodium sulfate. After removal of sodium sulfate, the solvent was distilled off to obtain crystals. The crystals were recrystallized from a 1:1 mixture of acetone and hexane, thereby obtaining 1.1 g of 1-(2-chlorophenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinethione having a melting point of 271°-275° C.

reactant | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
reactant | 1-(2-chlorophenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone | 0.0035 mole, 1.3 g | ClC1=C(C=CC=C1)N1C(=C(C(C=C1C1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C24H18ClNO
reactant | phosphorus pentasulfide | 0.0042 mole, 0.9 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | water | O | H2O
product | 1-(2-chlorophenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinethione | 1.1 g | ClC1=C(C=CC=C1)N1C(=C(C(C=C1C1=CC=CC=C1)=S)C)C1=CC=CC=C1 | C24H18ClNS
